US07468375B2
Step 1:1-(4-Fluorobenzyl)-1H-pyrrole.
To a stirred solution of pyrrole (10.0 mL, 9.67 g, 144.13 mmol) in dichloromethane (200 mL) were added tetrabutylammonium bromide (46.5 g, 144.13 mmol), 4-fluorobenzyl bromide (17.7 mL, 158.54 mmol) and 50% NaOH aqueous solution (120 mL) with cooling in an ice-water bath. The resulting mixture was heated to reflux for 5 hr. After cooling down, it was quenched with saturated aqueous NH4Cl solution (200 mL), and extracted with dichloromethane (300 mL). The organic extract was dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography. Elution with dichloromethane:ethyl acetate:hexanes (1:1:5) provided the title compound (20 g, 79% yield). 1H NMR (CDCl3) δ ppm 6.96-7.09 (m, 4H), 6.67 (d, 2H, J=2.0 Hz), 6.19 (t, 2H, J=2.0 Hz), 5.03 (s, 2H). LCMS (APCI, M+H+): 176.1.

reactant | pyrrole | 144.13 mmol, 10.0 mL, 9.67 g | N1C=CC=C1 | C4H5N
reactant | 4-fluorobenzyl bromide | 158.54 mmol, 17.7 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | NaOH | 120 mL | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 144.13 mmol, 46.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-Fluorobenzyl)-1H-pyrrole | 20 g, 79% yield | FC1=CC=C(CN2C=CC=C2)C=C1 | C11H10FN
